US07851626B2
(4S,5R)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-1H-imidazole
In a manner analogous to the method described in example 2, rac-(1R*,2S*)-1,2-bis-(4-chloro-phenyl)-propane-1,2-diamine was reacted with 4-tert-butyl-2-ethoxy-benzoic acid methyl ester (prepared as described in Fotouhi, N. et al. WO 2005110996) in the presence of trimethylaluminum to give the title compound as a racemic mixture.

reactant | rac-(1R*,2S*)-1,2-bis-(4-chloro-phenyl)-propane-1,2-diamine | ClC1=CC=C(C=C1)C(C(C)(N)C1=CC=C(C=C1)Cl)N | C15H16Cl2N2
reactant | 4-tert-butyl-2-ethoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C(C)(C)C)OCC)=O | C14H20O3
reactant | trimethylaluminum | C[Al](C)C
product | (4S,5R)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4-methyl-4,5-dihydro-1H-imidazole | C(C)(C)(C)C1=CC(=C(C=C1)C=1N[C@@H]([C@](N1)(C)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)OCC | C28H30Cl2N2O
